US07009032B2
Synthesis of 2-Methyl-2-Dichloromethyl-1,3-Dithiane
In a three-necked flask equipped with a magnetic stirrer and having a nitrogen blanket at the inlet and outlet, are added 13.97 grams (0.11 mole) of 1,1-dichloroacetone, 10.8 grams (0.10 mole) of 1,3-propanedithiol and 50 milliliters of chloroform. The reaction mixture is cooled to 0° C. A slow steam of hydrogen chloride gas is then bubbled through the solution for approximately five minutes. Upon the reaction mixture reaching saturation, the mixture is allowed to set at room temperature for approximately thirty minutes. The solvent is then evaporated and a crude 2-methyl-2-dichloromethyl-1,3-dithiane derivative is expected in a yield of approximately 80–90%.

reactant | 1,1-dichloroacetone | 0.11 mole, 13.97 grams | ClC(C(=O)C)Cl | C3H4Cl2O
reactant | 1,3-propanedithiol | 0.10 mole, 10.8 grams | C(CCS)S | C3H8S2
solvent | chloroform | 50 milliliters | C(Cl)(Cl)Cl | CHCl3
product | 2-Methyl-2-Dichloromethyl-1,3-Dithiane | yield of approximately 80–90% | CC1(SCCCS1)C(Cl)Cl | C6H10Cl2S2
